US08981085B2
N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)cyclopropanecarboxamide (160 mg, 0.537 mmol) and (R)-tert-butyl piperidin-3-ylcarbamate (537 mg, 2.68 mmol) were processed as described in Example 1, Step J. The crude material was purified by C-18 reverse phase flash chromatography (Biotage SP4 unit, C-18 25M column, 5-80% CH3CN/water gradient; 25 CV) to provide (R)-tert-butyl 1-(5-bromo-3-(cyclopropanecarboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (120 mg, 47% yield) as solid. 1H NMR (400 MHz, (CD3)2SO) δ 11.57 (d, 1H), 9.61 (s, 1H), 8.14 (s, 1H), 7.52 (br s, 1H), 6.85 (br s, 1H), 3.61-3.48 (m, 1H), 3.25-3.13 (m, 3H), 3.09-3.01 (m, 1H), 1.87-1.80 (m, 1H), 1.77-1.65 (m, 3H), 1.45-1.32 (m, 1H), 1.29 (s, 9H), 0.77 (d, 4H); LCMS (APCI+) m/z 478, 480 (M+H)+, Retention time=3.59 minutes (Method 2).

reactant | N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)cyclopropanecarboxamide | 0.537 mmol, 160 mg | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2CC2)F | C11H9BrFN3O
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 2.68 mmol, 537 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
product | (R)-tert-butyl 1-(5-bromo-3-(cyclopropanecarboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 120 mg, 47% yield | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2CC2)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C21H28BrN5O3
